US06620842B2
1-[3-Methyl-7-(3-Methylbut-2-Enyloxy)Flavon-8-yl]-3-Phenyl-Propen -1-one (See Accompanying Formula Drawing VIB 166).
A solution of KOH 50% (3 ml) is added to an equimolar solution of 7-(3-methylbut -2-enyloxy)-8-acetyl-3-methylflavone (2.71 g, 0.0075 mol) and benzaldehyde (0.8 g, 0.0075 mol) in ethanol 95%; the addition is performed under energetic stirring at room temperature. The reaction is left under stirring for one night and then diluted with water and acidified; the precipitate is separated by filtration and dried under vacuum. The compound is crystallized by methanol to give 2.3 g of product m.p. 83-84° C., 1H-NMR (CDCl3)δ:1.67 (s, 3H); 1.70 (s, 3H); 2.18 (5, 3H); 4.68 (d, 2H, J=6.4 Hz); 5.30-5.38 (m, 11H); 7.00 (d, 1H, J=16 Hz); 7.02 (d, 11, J=8.9 Hz; 7.24 (d, 1H, J=16 Hz); 7.30-7.45 (m, 6H); 7.48-7.54 (m, 4H);8.30 (d, 1H, J=8.9 Hz).

reactant | KOH | 3 ml | [OH-].[K+]
reactant | 7-(3-methylbut -2-enyloxy)-8-acetyl-3-methylflavone | 0.0075 mol, 2.71 g | CC(=CCOC1=CC=C2C(C(=C(OC2=C1C(C)=O)C1=CC=CC=C1)C)=O)C | C23H22O4
reactant | benzaldehyde | 0.0075 mol, 0.8 g | C(C1=CC=CC=C1)=O | C7H6O
solvent | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
product | 1-[3-Methyl-7-(3-Methylbut-2-Enyloxy)Flavon-8-yl]-3-Phenyl-Propen -1-one | 2.3 g | CC1=C(OC2=C(C(=CC=C2C1=O)OCC=C(C)C)C(C=CC1=CC=CC=C1)=O)C1=CC=CC=C1 | C30H26O4
